US07456218B2
ethyl 3-[2-fluoro-4-({4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)phenyl]propanoate
To a solution of 4-({[3′-(hydroxymethyl)-2,6-dimethylbiphenyl-4-yl]oxy}methyl)tetrahydro-2H-thiopyran-4-ol (0.90 g, 2.51 mmol), ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate (0.56 g, 2.64 mmol) and tributylphosphine (0.86 mL, 3.26 mmol) in tetrahydrofuran (20 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.85 g, 3.26 mmol) at room temperature with stirring, and the mixture was stirred for 10 hrs. The resulting precipitate was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=2/1) to give the title compound (1.24 g, yield 89%) as a colorless oil.

reactant | 4-({[3′-(hydroxymethyl)-2,6-dimethylbiphenyl-4-yl]oxy}methyl)tetrahydro-2H-thiopyran-4-ol | 2.51 mmol, 0.90 g | OCC=1C=C(C=CC1)C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C | C21H26O3S
reactant | ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate | 2.64 mmol, 0.56 g | FC1=C(C=CC(=C1)O)CCC(=O)OCC | C11H13FO3
reactant | tributylphosphine | 3.26 mmol, 0.86 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.26 mmol, 0.85 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 3-[2-fluoro-4-({4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)phenyl]propanoate | 1.24 g, yield 89% | FC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C)CCC(=O)OCC | C32H37FO5S
